US08007927B2
9-(2,6-Dimethoxyphenyl)-9H-carbazole (10.00 g) and pyridinium hydrochloride (50.0 g) were placed in the 250 ml round-bottom flask, equipped with magnetic stirrer and immersed in the pre-heated oil bath (230° C., 45 min). The reaction mixture was cooled down to room temperature, diluted with 400 ml water and extracted with ethyl acetate (3×150 ml). Organic fractions were combined, dried over sodium sulfate anhydrous, filtered and evaporated, providing 5.5 g of pure 2-carbazol-9-yl-benzene-1,3-diol. 2-Carbazol-9-yl -benzene-1,3-diol (5.5. g, 20 mmol) and pyridine (6.0 ml) were dissolved in 50 ml DCM (anhydrous) and cooled in the ice bath. Solution of triflic anhydride (6.0 ml) in 20 ml DCM was added dropwise upon intensive stirring, reaction mixture was warmed up to room temperature and stirred overnight. The reaction mixture was washed with water, dried over sodium sulfate, filtered and evaporated, providing crude triflate. Pure material (white solid, 6.0 g) was obtained by column chromatography on silica gel (eluent hexane/ethyl acetate 1/1 mixture).

reactant | 9-(2,6-Dimethoxyphenyl)-9H-carbazole | 10.00 g | COC1=C(C(=CC=C1)OC)N1C2=CC=CC=C2C=2C=CC=CC12 | C20H17NO2
reactant | pyridinium hydrochloride | 50.0 g | Cl.[NH+]1=CC=CC=C1
solvent | water | 400 ml | O | H2O
product | 2-carbazol-9-yl-benzene-1,3-diol | 5.5 g | C1=CC=CC=2C3=CC=CC=C3N(C12)C1=C(C=CC=C1O)O | C18H13NO2
